US09193728B2
Preparation of 5,8-dimethyl-2-phenyl-1,2,7,8,9,10-hexahydro-[1,4]oxazino[2,3,4-hi]pyrido[4,3-b]indole (Compound No. 15)
7-Methyl-2-phenyl-N-(propan-2-ylidene)-2H-benzo[b][1,4]oxazin-4(3H)-amine (1.3 g) and N-methyl piperidone (0.629 g) were dissolved in dioxane (2 mL). To this mixture was added 7% H2SO4 in Dioxane (25 mL) and the resulting reaction mixture was heated at 95° C. for 2 h. Reaction was monitored by TLC. After completion of reaction, the mixture was concentrated under reduced pressure, and the residue basified with NaOH solution to pH 12. The mixture was extracted with EtOAc (3×100 mL), and the organic layer dried over sodium sulfate and concentrated under reduced pressure. The crude product was purified by column chromatography using silica (100-200 mesh size) using 3% MeOH/DCM as eluent. The purified compound was further purified using preparative TLC using 5% MeOH/DCM as mobile phase to obtain pure product as a light brown solid (0.08 g). 1H NMR (CD3OD, HCl Salt): d (ppm): 7.56 (d, 2H), 7.42 (m, 3H), 6.90 (s, 1H), 6.56 (s, 1H), 5.32 (m, 1H), 4.70 (m, 1H), 4.50 (m, 1H), 4.38 (m, 1H), 4.05 (m, 1H), 3.82 (m, 1H), 3.58 (m, 1H), 3.20 (m, 2H), 3.10 (s, 3H), 2.40 (s, 3H).

reactant | 7-Methyl-2-phenyl-N-(propan-2-ylidene)-2H-benzo[b][1,4]oxazin-4(3H)-amine | 1.3 g | CC=1C=CC2=C(OC(CN2N=C(C)C)C2=CC=CC=C2)C1 | C18H20N2O
reactant | N-methyl piperidone | 0.629 g | CN1C(CCCC1)=O | C6H11NO
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | Dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 5,8-dimethyl-2-phenyl-1,2,7,8,9,10-hexahydro-[1,4]oxazino[2,3,4-hi]pyrido[4,3-b]indole | 0.08 g | CC=1C=C2C3=C(N4C2=C(C1)OC(C4)C4=CC=CC=C4)CCN(C3)C | C21H22N2O
